US05602277
EXAMPLE 17 3-Guanidinobenzoic acid hydrochloride (2:1).
A mixture of 3-aminobenzoic acid (Aldrich, 2.74 g, 0.02 mol), hydrochloric acid (12N, 1.66 g, 0.02 mol), and cyanamide (1.64 g, 0.04 mol) in absolute ethanol (50 mL) was heated at reflux for 16 h. The mixture was cooled and the precipitate separated by filtration. The cake was washed several times with ether and dried under vacuum to give 1.05 g (26.6%) of the title compound as an off-white amorphous powder, mp 278° C.

reactant | 3-aminobenzoic acid | 0.02 mol, 2.74 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | hydrochloric acid | 0.02 mol, 12N, 1.66 g | Cl | ClH
reactant | cyanamide | 0.04 mol, 1.64 g | N#CN | CH2N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-Guanidinobenzoic acid hydrochloride | 1.05 g, 26.6% | Cl.N(C(=N)N)C=1C=C(C(=O)O)C=CC1 | InChI=1S/C8H9N3O2.ClH/c9-8(10)11-6-3-1-2-5(4-6)7(12)13;/h1-4H,(H,12,13)(H4,9,10,11);1H
